US07208495B2
3-(4-chlorophenyl)-5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol
Using 1-bromo-4-chlorobenzene and 4-(4-methoxyphenyl)-1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-on-5-yl)piperazine obtained in Reference Example 13, the title compound was synthesized in the same manner as in Example 33. Yield 71%. mp. 153–155° C. (hexane).

reactant | 1-bromo-4-chlorobenzene | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | 4-(4-methoxyphenyl)-1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-on-5-yl)piperazine | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C24H30N2O3
solvent | hexane | CCCCCC | C6H14
product | 3-(4-chlorophenyl)-5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol | Yield 71% | ClC1=CC=C(C=C1)C1(C(OC2=C1C(=C(C(=C2C)C)N2CCN(CC2)C2=CC=C(C=C2)OC)C)(C)C)O | C30H35ClN2O3
